US09260452B2
To a solution of the (1S,4R,6S)-6-hydroxy-2-(4-methoxybenzyl)-2-azabicyclo[2.2.1]-heptan-3-one (500 mg, 2.02 mmol) in anhydrous THF (20 mL) was added NaH (60 wt %, 4.04 mmol) at room temperature. The mixture was stirred at 40° C. for 30 min. After cooling to room temperature, CH3I (0.41 mL, 8.08 mmol) was added. The reaction mixture was stirred for 1 h at ambient temperature and quenched with water (50 mL), extracted by EtOAc. The combined organic extracts were washed with brine, dried over Na2SO4, and evaporated to give (1S,4R,6S)-6-methoxy-2-(4-methoxybenzyl)-2-azabicyclo[2.2.1]heptan-3-one. MS (ESI+): m/z 262 (M+H+).

reactant | (1S,4R,6S)-6-hydroxy-2-(4-methoxybenzyl)-2-azabicyclo[2.2.1]-heptan-3-one | 2.02 mmol, 500 mg | O[C@H]1C[C@@H]2C(N([C@H]1C2)CC2=CC=C(C=C2)OC)=O | C14H17NO3
reactant | NaH | 4.04 mmol | [H-].[Na+]
reactant | CH3I | 8.08 mmol, 0.41 mL | CI | CH3I
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (1S,4R,6S)-6-methoxy-2-(4-methoxybenzyl)-2-azabicyclo[2.2.1]heptan-3-one | CO[C@H]1C[C@@H]2C(N([C@H]1C2)CC2=CC=C(C=C2)OC)=O | C15H19NO3
